US06172057B2
1-Cyclooctyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid was prepared starting from 1-cyclooctyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester (8 g, 18.3 mmol) dissolved in methanol (200 ml) and 10 N NaOH (25 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 2.36 g (32%); white powder, mp 180° C.; MS: 410 (M+H)+.

reactant | 1-cyclooctyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester | 18.3 mmol, 8 g | C(C)OC(=O)C1(CCN(CC1)C1CCCCCCC1)S(=O)(=O)C1=CC=C(C=C1)OC | C23H35NO5S
solvent | methanol | 200 ml | CO | CH4O
solvent | NaOH | 10 N, 25 ml | [OH-].[Na+]
product | 1-Cyclooctyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid | C1(CCCCCCC1)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C21H31NO5S
